US08580762B2
ethyl 3-(3-((((1R,2R,3S,4R)-4-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,3-dihydroxycyclopentyl)methyl)amino)cyclobutyl)propanoate
Sodium triacetoxyborohydride (2.43 g, 11.5 mmol) was added to a solution of (1S,2R,3R,5R)-3-(aminomethyl)-5-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)cyclopentane-1,2-diol (2.6 g, 5.7 mmol) and ethyl 3-(3-oxocyclobutyl)propanoate (0.976 g, 5.73 mmol) and Acetic acid (0.326 ml, 5.73 mmol) in 1,2-Dichloroethane (20 ml) and reaction was stirred at RT overnight. NaHCO3 was added and the aqueous layer was extracted 3× with DCM. The combined organics were dried with MgSO4, filtered, concentrated and purified by flash chromatography (DCM/7N NH3 in MeOH 90:10) to give the desired compound (1.8 g) as a thick yellow resin.

reactant | Sodium triacetoxyborohydride | 11.5 mmol, 2.43 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | (1S,2R,3R,5R)-3-(aminomethyl)-5-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)cyclopentane-1,2-diol | 5.7 mmol, 2.6 g | NC[C@@H]1[C@H]([C@H]([C@@H](C1)N1C=CC2=C1N=CN=C2NCC2=C(C=C(C=C2)OC)OC)O)O | C21H27N5O4
reactant | ethyl 3-(3-oxocyclobutyl)propanoate | 5.73 mmol, 0.976 g | O=C1CC(C1)CCC(=O)OCC | C9H14O3
reactant | Acetic acid | 5.73 mmol, 0.326 ml | C(C)(=O)O | C2H4O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | 1,2-Dichloroethane | 20 ml | ClCCCl | C2H4Cl2
product | ethyl 3-(3-((((1R,2R,3S,4R)-4-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,3-dihydroxycyclopentyl)methyl)amino)cyclobutyl)propanoate | 1.8 g | COC1=C(CNC=2C3=C(N=CN2)N(C=C3)[C@H]3[C@@H]([C@@H]([C@H](C3)CNC3CC(C3)CCC(=O)OCC)O)O)C=CC(=C1)OC | C30H41N5O6
